US07169780B2
Step 10: Methyl-2-[(2S,4S)-1-acetyl-4fluoropyrrolidin-2-yl]-5-(benzoyloxy)-6-hydroxypyrimidine-4-carboxylate.
Methyl-5-(benzoyloxy)-2-{(2S,4S)-1-[(benzyloxy)carbonyl]-4-fluoropyrrolidin-2-yl}-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxylate, dissolved in ethyl acetate was treated with Pd/C 10% (10% w/w) and acetic anhydride (1 eq.) and submitted under H2 atmosphere at room temperature. The reaction mixture was stirred at room temperature for 18 hours and then the suspension was filtered over celite to give the title compound as a 7:3 mixture of rotamers by NMR.

reactant | Methyl-5-(benzoyloxy)-2-{(2S,4S)-1-[(benzyloxy)carbonyl]-4-fluoropyrrolidin-2-yl}-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxylate | COC(=O)C=1N=C(N(C(C1OC(C1=CC=CC=C1)=O)=O)C)[C@H]1N(C[C@H](C1)F)C(=O)OCC1=CC=CC=C1 | C26H24FN3O7
reactant | acetic anhydride | 1 eq. | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | [Pd] | Pd
product | Methyl-2-[(2S,4S)-1-acetyl-4fluoropyrrolidin-2-yl]-5-(benzoyloxy)-6-hydroxypyrimidine-4-carboxylate | COC(=O)C1=NC(=NC(=C1OC(C1=CC=CC=C1)=O)O)[C@H]1N(C[C@H](C1)F)C(C)=O | C19H18FN3O6
